US05200422
1,3-dihydro-1-(5-chloro-3-bromo-2-hydroxyphenyl)-5-trifluoromethyl-2H-benzimidazol-2-one
A solution of 1,3-dihydro-1-(5-chloro-2-hydroxyphenyl)-5-trifluoromethyl-2H-benzimidazol-2-one (0.2 g, 0.6 mmol) in glacial acetic acid (5 ml) at room temperature was added bromine (45 μl, 0.9 mmol) and, after stirring for 20 minutes, the mixture was poured into water (25 ml). The crude product was collected by filtration, taken up in hot ethanol and precipitated by addition of water yielding the title compound as white crystals, M.p. 254°-255° C.

reactant | 1,3-dihydro-1-(5-chloro-2-hydroxyphenyl)-5-trifluoromethyl-2H-benzimidazol-2-one | 0.6 mmol, 0.2 g | ClC=1C=CC(=C(C1)N1C(NC2=C1C=CC(=C2)C(F)(F)F)=O)O | C14H8ClF3N2O2
reactant | bromine | 0.9 mmol, 45 μl | BrBr | Br2
reactant | water | 25 ml | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 1,3-dihydro-1-(5-chloro-3-bromo-2-hydroxyphenyl)-5-trifluoromethyl-2H-benzimidazol-2-one | ClC=1C=C(C(=C(C1)N1C(NC2=C1C=CC(=C2)C(F)(F)F)=O)O)Br | C14H7BrClF3N2O2
